Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][N:2]([CH3:3])[CH2:4][CH2:5][n:6]1[cH:7][c:8]([O:9][CH:10]([c:11]2[cH:16][cH:15][cH:14][cH:13][cH:12]2)[c:17]2[cH:22][cH:21][cH:20][cH:19][cH:18]2)[c:23](=[O:24])[cH:25][c:26]1[CH2:27][OH:28]>>[CH3:1][N:2]([CH3:3])[CH2:4][CH2:5][n:6]1[cH:7][c:8]([O:9][CH:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[cH:25][c:26]1[CH:27]=[O:28],[CH3:1][N:2]([CH3:3])[CH2:4][CH2:5][n:6]1[cH:7][c:8]([O:9][CH:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[cH:25][c:26]1[CH2:27][OH:28].[Cl:301][C:302](=[O:303])[C:304](=[O:305])[Cl:306].[CH3:307][S:308](=[O:309])C.CC[N:310](CC)CC>>[CH3:1][N:2]([CH3:3])[CH2:4][CH2:5][n:6]1[cH:7][c:8]([O:9][CH:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[cH:25][c:26]1[CH:27]=[O:28],Swern_oxidation,"[([308, 309], 304), ([304, 305], 305), (305, [305, 304]), ([304, 306], 306), (306, 308), ([308, 309], [309, 304]), ([304, 302], 302), ([302, 301], 301), (28, 308), ([308, 306], 306), (306, 28.1), ([28.1, 28], 28), (310, 307.1), ([307.1, 307], 307), (301, 310.1), ([310.1, 310], 310), (307, 27.1), ([27.1, 27], [27, 28]), ([28, 308], 308)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N:1]#[C:2][c:3]1[c:4]([NH2:5])[s:6][c:7]2[c:8]1[CH2:9][CH2:10][O:11][CH2:12]2.[O:13]=[C:14]=[N:15][C:16](=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[N:1]#[C:2][c:3]1[c:4]([NH:5][C:14](=[O:13])[NH:15][C:16](=[O:17])[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[s:6][c:7]2[c:8]1[CH2:9][CH2:10][O:11][CH2:12]2,[N:1]#[C:2][c:3]1[c:4]([NH2:5])[s:6][c:7]2[c:8]1[CH2:9][CH2:10][O:11][CH2:12]2.[O:13]=[C:14]=[N:15][C:16](=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[N:1]#[C:2][c:3]1[c:4]([NH:5][C:14](=[O:13])[NH:15][C:16](=[O:17])[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[s:6][c:7]2[c:8]1[CH2:9][CH2:10][O:11][CH2:12]2,nucleophilic_attack_to_iso(thio)cyanate,"[(5, 14), ([14, 13], 13), (13, 5.1), ([5.1, 5], 5), (13, [13, 14]), ([14, 15], 15), (15, 13.1), ([13.1, 13], 13)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][CH2:4][CH2:5][N:6]1[CH2:7][CH2:8][CH2:9][CH2:10]1.[CH3:11][O:12][c:13]1[cH:14][cH:15][c:16](-[c:17]2[cH:18][c:19]([NH2:20])[nH:21][n:22]2)[cH:23][n:24]1>>[C:1](=[O:2])([CH2:3][CH2:4][CH2:5][N:6]1[CH2:7][CH2:8][CH2:9][CH2:10]1)[NH:20][c:19]1[cH:18][c:17](-[c:16]2[cH:15][cH:14][c:13]([O:12][CH3:11])[n:24][cH:23]2)[n:22][nH:21]1,[CH3:11][O:12][c:13]1[cH:14][cH:15][c:16](-[c:17]2[cH:18][c:19]([NH2:20])[nH:21][n:22]2)[cH:23][n:24]1.[OH:101][C:1](=[O:2])[CH2:3][CH2:4][CH2:5][N:6]1[CH2:7][CH2:8][CH2:9][CH2:10]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][CH2:4][CH2:5][N:6]1[CH2:7][CH2:8][CH2:9][CH2:10]1)[NH:20][c:19]1[cH:18][c:17](-[c:16]2[cH:15][cH:14][c:13]([O:12][CH3:11])[n:24][cH:23]2)[n:22][nH:21]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (20, 1), ([1, 2], 2), (303, 20.1), ([20.1, 20], 20), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@H:2]([C@@H:3]([CH3:4])[O:5][C:6]([CH3:7])([CH3:8])[CH3:9])[N:10]([C:11](=[O:12])[O:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[SiH:21]([CH3:22])[CH3:23])=[O:24].[CH3:25][NH:26][O:27][CH3:28]>>[C:1]([C@H:2]([C@@H:3]([CH3:4])[O:5][C:6]([CH3:7])([CH3:8])[CH3:9])[N:10]([C:11](=[O:12])[O:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[SiH:21]([CH3:22])[CH3:23])(=[O:24])[N:26]([CH3:25])[O:27][CH3:28],[OH:101][C:1]([C@H:2]([C@@H:3]([CH3:4])[O:5][C:6]([CH3:7])([CH3:8])[CH3:9])[N:10]([C:11](=[O:12])[O:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[SiH:21]([CH3:22])[CH3:23])=[O:24].[CH3:25][NH:26][O:27][CH3:28].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@H:2]([C@@H:3]([CH3:4])[O:5][C:6]([CH3:7])([CH3:8])[CH3:9])[N:10]([C:11](=[O:12])[O:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[SiH:21]([CH3:22])[CH3:23])(=[O:24])[N:26]([CH3:25])[O:27][CH3:28],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 24], 24), (303, 26.1), ([26.1, 26], 26), (24, [24, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
